US06080754
5-Acetoxymethyl-3-(4-benzyloxyphenyl)pyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid anhydride was reacted with dimethylamine by the general synthetic principles outlined in example 62, step 9, to afford 5-acetoxymethyl-3-(4-benzyloxyphenyl)-2-dimethylcarbamoylpyrrolo[2,1,5-cd]indolizine-1-carboxylic acid as crystals in 68% yield. 1H-NMR (DMSO-d6, 300 MHz) δ: 2.22 (s, 3H); 2.72 (s, 3H); 3.08 (s, 3H); 5.20 (s, 2H); 5.70 (s, 2H); 7.19 (d, 2H); 7.32-7.53 (m, 5H); 7.82 (d, 2H); 7.89 (s, 1H); 8.02 (d, 1H); 8.32 (d, 1H); 12.78 (br s, 1H).

reactant | 5-Acetoxymethyl-3-(4-benzyloxyphenyl)pyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid anhydride | C(C)(=O)OCC1=C2N3C(=C4C(=C3C=C1)C(=O)OC4=O)C(=C2)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C28H19NO6
reactant | dimethylamine | CNC | C2H7N
product | 5-acetoxymethyl-3-(4-benzyloxyphenyl)-2-dimethylcarbamoylpyrrolo[2,1,5-cd]indolizine-1-carboxylic acid | 68% yield | C(C)(=O)OCC=1C=2N3C(C(=C(C3=CC1)C(=O)O)C(N(C)C)=O)=C(C2)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C30H26N2O6
